US08198801B2
4,4′-dibromo-2,2′-dinitrobiphenyl (6.1 g, 15.17 mmol) was stirred in HCl 30 ml/EtOH 75 ml, Sn powder (7.2 g, 60.68 mmol) was added thereto, and then the reaction mixture was refluxed for 24 hours. Next, the reaction mixture was cooled to room temperature, neutralized with 10% NaOH solution, and then recrystallized in ethanol to obtain 4,4′-dibromo-2,2′-diaminobiphenyl (3.5 g, 67%). MS [M+H] 341.

reactant | 4,4′-dibromo-2,2′-dinitrobiphenyl | 15.17 mmol, 6.1 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)[N+](=O)[O-])[N+](=O)[O-] | C12H6Br2N2O4
reactant | EtOH | 75 ml | CCO | C2H6O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 30 ml | Cl | ClH
product | 4,4′-dibromo-2,2′-diaminobiphenyl | 3.5 g, 67% | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)N)N | C12H10Br2N2
